US05114936
In 478 ml anhydrous tetrahydrofuran (THF) was dissolved 10.2 g 6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one under nitrogen atmosphere with stirring. The solution was cooled to -78° C. and 47.8 ml lithium diisopropylamide (1.5 molar in cyclohexane) was added dropwise. The resulting solution was stirred for 10 minutes at -78° C. and 7.7 ml 1-chloro-3-iodopropane was added. Upon warming to room temperature, the reaction mixture was poured into water and ether. The layers were separated and the aqueous phase was extracted twice with dichloromethane and twice with ether. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Column chromatography on silica gel (10% ethyl acetate/hexane) gave 6.2 g of 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one.

reactant | 6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 10.2 g | C1(=CC=CC=C1)C1=NOC2=C1C(CCC2)=O | C13H11NO2
reactant | lithium diisopropylamide | 1.5 molar, 47.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-chloro-3-iodopropane | 7.7 ml | ClCCCI | C3H6ClI
reactant | water | O | H2O
solvent | tetrahydrofuran | 478 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 6.2 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C16H16ClNO2
